US08980911B2
A mixture of methyl {5-iodo-2-[(2,4,4-trimethylpentan-2-yl)amino]pyridin-4-yl}carbamate (1.3 g, 3.2 mmol), potassium hydroxide (898 mg, 16 mmol), ethanol (10 mL) and water (10 mL) was heated at 80° C. for 2 hours. Ethanol was removed under vacuum, and the residue was stirred in water. The precipitated solid was filtered under vacuum and dried to yield 900 mg (81%) of 5-iodo-N2-(2,4,4-trimethylpentan-2-yl)pyridine-2,4-diamine.

reactant | methyl {5-iodo-2-[(2,4,4-trimethylpentan-2-yl)amino]pyridin-4-yl}carbamate | 3.2 mmol, 1.3 g | IC=1C(=CC(=NC1)NC(C)(CC(C)(C)C)C)NC(OC)=O | C15H24IN3O2
reactant | potassium hydroxide | 16 mmol, 898 mg | [OH-].[K+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 5-iodo-N2-(2,4,4-trimethylpentan-2-yl)pyridine-2,4-diamine | 900 mg, 81% | IC=1C(=CC(=NC1)NC(C)(CC(C)(C)C)C)N | C13H22IN3
